US04007189
8-Cycloheptyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine
A mixture of 2g of 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 0.98g of cycloheptylamine, 3 ml of triethylamine and 20 ml of ethanol was stirred under reflux for 1.5 hours and treated thereafter as described in Example 5. The crystals thus obtained were crystallized from tetrahydrofuranisopropyl ether to give 1.4g of pale yellow needles of m.p. 197° - 198° C.

reactant | 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | ClC1=C(C(=NC=2N1N=CN2)C)CCCl | C8H8Cl2N4
reactant | cycloheptylamine | 0.98g | C1(CCCCCC1)N | C7H15N
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-Cycloheptyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine | 1.4g | C1(CCCCCC1)N1CCC=2C(=NC=3N(C21)N=CN3)C | C15H21N5
